US08492371B2
3-tert-butyl-N-trityl-1H-pyrazol-5-amine
In a 20 mL vial, to a solution of 3-tert-butyl-1H-pyrazol-5-amine (150 mg, 1.078 mmol) in dichloromethane (2 mL) and triethylamine (0.180 mL, 1.293 mmol) was added (chloromethanetriyl)tribenzene (300 mg, 1.078 mmol). The reaction was stirred at 20° C. for 10 hours before toluene (5 mL) and ethyl acetate (10 mL) were added. The solid was filtered and the filtrate was concentrated to provide the crude title compound (320 mg). 1H NMR (300 MHz, DMSO-d6) δ ppm 0.95-1.02 (m, 9H) 4.82 (s, 1H) 5.75 (s, 1H) 7.15-7.37 (m, 15H) 11.13 (s, 1H); MS (DCI/NH3) m/z 382 (M+H)+.

reactant | 3-tert-butyl-1H-pyrazol-5-amine | 1.078 mmol, 150 mg | C(C)(C)(C)C1=NNC(=C1)N | C7H13N3
reactant | triethylamine | 1.293 mmol, 0.180 mL | C(C)N(CC)CC | C6H15N
reactant | (chloromethanetriyl)tribenzene | 1.078 mmol, 300 mg | ClC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
reactant | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 3-tert-butyl-N-trityl-1H-pyrazol-5-amine | 320 mg | C(C)(C)(C)C1=NNC(=C1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C26H27N3
